US06476030B1
3-Bromo-7-(2-fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine
To a stirred solution of 3-bromo-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-ol (0.2073 g, 0.671 mmol) in anhydrous DMF (10 ml) under nitrogen was added cesium carbonate (0.8731 g, 2.680 mmol), then solid 3-chloromethyl-2-methyl-2H-[1,2,4]triazole hydrochloride (0.1703 g, 1.014 mmol). The mixture was stirred at room temperature for 22.5 h, then at 60° C. for 2.33 h. This was then partitioned between water (40 ml) and ethyl acetate (40 ml). The aqueous layer was further extracted with ethyl acetate (2×40 ml), and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, EtOAc) to give 0.2299 g (85%) of the title compound as a white solid: mp=215-219° C. (CH2Cl2-EtOAc-isohexane); 1H NMR (360 MHz, CDCl3) δ 3.87 (3H, s), 5.52 (2H, s), 7.28 (1H, m), 7.39 (1H, t, J=7.5 Hz), 7.65 (1H, m), 7.77 (1H, t, J=7.5 Hz), 7.87 (1H, s), 9.22 (1H, s); MS (ES+) m/e 404/406 [MH]+. Anal. Found C, 44.41; H, 2.53; N, 24.04%. C15H11BrFN7O requires C, 44.57; H, 2.74; N, 24.26%.

reactant | 3-bromo-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-ol | 0.671 mmol, 0.2073 g | BrC=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)O | C11H6BrFN4O
reactant | cesium carbonate | 2.680 mmol, 0.8731 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-chloromethyl-2-methyl-2H-[1,2,4]triazole hydrochloride | 1.014 mmol, 0.1703 g | Cl.ClCC=1N(N=CN1)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Bromo-7-(2-fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine | 0.2299 g, 85% | BrC=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)OCC=2N(N=CN2)C | C15H11BrFN7O
